US06852830B2
2-Acetoxymethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid dimethyl ester (60 g, 0.18 mol) was dissolved in ethanol (680 mL). KOH (36 g) was added to this solution after which water (500 mL) was added upon continuous cooling. After addition of the water the reaction mixture was stirred for another 30 minutes after which the solvents were removed by distillation. To the remaining part of the reaction mixture, we dropwise added a mixture of ice (50 g) and concentrated hydrochloric acid (25 mL), and stirred. The mixture was then filtrated and the residue was washed with water. Subsequent drying resulted in quantitative formation of pure 2-hydroxymethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid as demonstrated by NMR and mass spectroscopy.

reactant | 2-Acetoxymethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid dimethyl ester | 0.18 mol, 60 g | COC(=O)C=1SC(=C2OC(COC21)COC(C)=O)C(=O)OC | C13H14O8S
reactant | KOH | 36 g | [OH-].[K+]
reactant | water | 500 mL | O | H2O
solvent | ethanol | 680 mL | C(C)O | C2H6O
product | 2-hydroxymethyl-2,3-dihydro-thieno[3,4-b][1,4]dioxine-5,7-dicarboxylic acid | OCC1COC=2C(O1)=C(SC2C(=O)O)C(=O)O | C9H8O7S
